US08748624B2
STEP C: Ethyl 3-(5-(2-formyl-3-hydroxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate
Neat TFA (1 mL) was added to a DCM solution (3 mL) of ethyl 3-(5-(2-formyl-3-(methoxymethoxy)-5-(trifluoromethyl)phenyl)picolinamido)propanoate (121 mg, 0.27 mmol) and the resulting mixture was stirred at room temperature. After 1 h the resulting mixture was concentrated to yield the title compound, which was used in the next step without further purification.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | ethyl 3-(5-(2-formyl-3-(methoxymethoxy)-5-(trifluoromethyl)phenyl)picolinamido)propanoate | 0.27 mmol, 121 mg | C(=O)C1=C(C=C(C=C1OCOC)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C21H21F3N2O6
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 3-(5-(2-formyl-3-hydroxy-5-(trifluoromethyl)phenyl)picolinamido)propanoate | C(=O)C1=C(C=C(C=C1O)C(F)(F)F)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC | C19H17F3N2O5
